* C:\Users\Mathias\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\spaeningsforsyning.asc
V1 Vcc 0 5.5
V2 Vdd 0 -5.5
V3 N001 0 SINE(0 4 10)
XU4 N001 Vout Vcc Vdd Vout TL081
.tran 01
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
