* C:\Users\Mathias\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\spaeningsforsyning.asc
V1 Vcc 0 4.3
V2 Vdd 0 -4.3
V3 N001 0 SINE(0 3 2)
XU4 N001 Vout Vcc Vdd Vout TL081
.tran 01
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
